US07834013B2
Racemic-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}-N-(4-pyridinylmethyl)cyclopropanecarboxamide (IV-3)
HATU (0.14 g, 0.37 mmol) and racemic-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid (I-2m) (0.12 g, 0.28 mmol) in DMF (10 mL) were stirred at RT for 45 min, then (4-pyridinylmethyl)amine (0.36 g, 3.33 mmol) was added. The solution was stirred at RT for 16 h, then saturated NaHCO3 solution (50 mL) and ethyl acetate (50 mL) were added. The organic layer was separated, washed with saturated NaHCO3 solution (50 mL), water (50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated. The crude material was partially dissolved in dichloromethane (10 mL) and diethyl ether was added (10 mL). The white solid was filtered, washed with diethyl ether, and dried to give the title compound as a white powder (0.094 g, 64%). 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=5.1 Hz, 2H), 7.97 (d, J=8.4 Hz, 2H), 7.65 (d, J=8.2 Hz, 2H), 7.20 (d, J=4.7 Hz, 2H), 6.96 (d, J=8.1 Hz, 2H), 6.60 (d, J=8.4 Hz, 2H), 5.99 (t, J=5.7 Hz, 1H), 4.49 (t, J=5.9 Hz, 2H), 4.45 (s, 2H), 4.02 (bs, 1H), 2.49 (s, 3H), 2.49-2.45 (m, 1H), 1.63-1.53 (m, 2H), 1.25-1.21 (m, 1H). ES-MS m/z 523.2 (MH+).

reactant | HATU | 0.37 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | racemic-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid | 0.28 mmol, 0.12 g | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2S
reactant | (4-pyridinylmethyl)amine | 3.33 mmol, 0.36 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Racemic-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}-N-(4-pyridinylmethyl)cyclopropanecarboxamide | 0.094 g, 64% | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)NCC1=CC=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C28H25F3N4OS
